US06497886B1
1,3-Bis-(1-pyrrolidonyl)Butene
A stream of HCl gas was passed through a capillary into 25 g of N-vinylpyrrolidone, which had been purified by crystallization, under nitrogen for 10 sec. The mixture was stored at 0° C. under a nitrogen atmosphere overnight, during which slow crystallization started. 10 ml of ether were added to complete the crystallization. 1,3-Bis-(1-pyrrolidonyl)butene crystallized in clusters of needles. The product was recrystallized from ether/acetone (1/5).

reactant | HCl | Cl | ClH
reactant | N-vinylpyrrolidone | 25 g | C(=C)N1C(CCC1)=O | C6H9NO
product | 1,3-Bis-(1-pyrrolidonyl)Butene | N1(C(CCC1)=O)C=CC(C)N1C(CCC1)=O | C12H18N2O2
